US08314088B2
8-benzyl-3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A suspension of 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (300 mg), isopropylthiol (0.121 mL) and potassium carbonate (451 mg) in DMF (5 mL) was stirred with heating at 100° C. for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 36→40% ethyl acetate/hexane), and further by preparative HPLC to give the title compound (111 mg, 32%) as a yellow oil.

reactant | 8-benzyl-3-chloro-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 300 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)Cl | C14H14ClN3O
reactant | isopropylthiol | 0.121 mL | CC(C)S | C3H8S
reactant | potassium carbonate | 451 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-benzyl-3-[(1-methylethyl)sulfanyl]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 111 mg, 32% | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)SC(C)C | C17H21N3OS
